US05166347
Isopropyl N-cyano-3-pyridinecarboximidate (0.25 g, 1.3 mmol) was dissolved in methanol (10 ml), and 3,4-(dibenzyloxy)phenethylamine hydrochloride (0.54 g, 1.5 mmol) and triethylamine (0.15 g, 1.5 mmol) were added. The mixture was stirred at room temperature for 45 minutes. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate thus obtained was extracted with ethyl acetate (100 ml×3). The ethyl acetate layer was washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residual concentrate was subjected to chromatography on a silica gel column (WAKO GEL C-200, 50 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure to give N-cyano-N'-[2-(3,4-dibenzyloxyphenyl)ethyl]-3-pyridinecarboximidamide (0.13 g, 0.3 mmol, yield: 21%) as colorless syrup. Next, to this syrup was added a 5% hydrogen chloride in methanol (2 ml). The solution was crystallized from methanol-diethyl ether to give N-cyano-N'-[ 2-(3,4-dibenzyloxyphenyl)ethyl]-3-pyridinecarboximidamide hydrochloride as colorless powder.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 1.3 mmol, 0.25 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 3,4-(dibenzyloxy)phenethylamine hydrochloride | 1.5 mmol, 0.54 g | C1=CC=C(C=C1)COC2=C(C=C(C=C2)CCN)OCC3=CC=CC=C3.Cl
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-[2-(3,4-dibenzyloxyphenyl)ethyl]-3-pyridinecarboximidamide | 0.3 mmol, 0.13 g, yield: 21% | C(#N)NC(=NCCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C=1C=NC=CC1 | C29H26N4O2
